US05830386
Under nitrogen atmosphere, 6.2 g (126 mM) of sodium cyanide and 50 ml of dimethyl sulfoxide (DMSO) were placed in two-necked round-bottomed flask and dissolved by heating, followed by stirring. The solution was left standing and a solution of 10.4 g of (R)-1-chloro2-octanol in 20 ml of DMSO was added dropwise to the solution at 50° C., followed by stirring for 20 hours at 50° C. After the reaction, distilled water was added to the reaction mixture, followed by extraction with diethyl ether. The organic layer was washed with distilled water and dried with anhydrous sodium sulfate, followed by distilling-off of the solvent under reduced pressure to obtain 8.48 g (54.7 mM) of (R)-3-hydroxynonanenitrile.

reactant | sodium cyanide | 126 mM, 6.2 g | [C-]#N.[Na+]
reactant | (R)-1-chloro2-octanol | 10.4 g | ClC[C@@H](CCCCCC)O | C8H17ClO
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | (R)-3-hydroxynonanenitrile | 54.7 mM, 8.48 g | O[C@@H](CC#N)CCCCCC | C9H17NO
